US07288654B2
To N-isobutyl-2-piperidone (1.13 g) was added an aqueous methanesulfonic acid solution (2.8 g/3.8 ml), and the mixture was refluxed at 120° C. for 2 days. The mixture was returned to room temperature, and sodium carbonate (1.55 g) was slowly added thereto. Then, the resulting solution was added dropwise to a suspension of 5-bromo-2-chloronicotinaldehyde (1.0 g) and sodium carbonate (1.25 g) in DMSO (10 ml) at 90° C. After stirring as it is for 2 hours, the mixture was cooled to 0° C. and water was added thereto. Then, 1 N hydrochloric acid (20 ml) was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue as it is was dissolved in DMF (20 ml). Then, potassium carbonate (1.25 g) and iodomethane (0.57 ml) were added thereto, and the mixture was stirred at room temperature under a nitrogen atmosphere for 2 hours. Water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and then the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1→hexane:ethyl acetate=4:1) to give methyl 5-[(5-bromo-3-formylpyridin-2-yl)(isobutyl)amino]pentanoate (867 mg) as a yellow oily material.

reactant | N-isobutyl-2-piperidone | 1.13 g | C(C(C)C)N1C(CCCC1)=O | C9H17NO
reactant | methanesulfonic acid | 3.8 ml, 2.8 g | CS(=O)(=O)O | CH4O3S
reactant | sodium carbonate | 1.55 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-chloronicotinaldehyde | 1.0 g | BrC=1C=NC(=C(C=O)C1)Cl | C6H3BrClNO
reactant | sodium carbonate | 1.25 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1 N, 20 ml | Cl | ClH
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl 5-[(5-bromo-3-formylpyridin-2-yl)(isobutyl)amino]pentanoate | 867 mg | BrC=1C=C(C(=NC1)N(CCCCC(=O)OC)CC(C)C)C=O | C16H23BrN2O3
